US07307094B2
To a solution of N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-nitrophenyl)benzoxazole-4-carboxamide (24 mg 0.06 mmol) in ethanol was added tin(II) chloride (116 mg, 0.61 mmol). The reaction mixture was then heated to reflux for 4 h. The reaction was cooled down to room temperature, then concentrated. The residue was dissolved in ethyl acetate (10 mL). The resulting solution was washed with 1 N NaOH (12 mL), water and brine, dried (Na2SO4), filtered and concentrated. The crude material was purified by column chromatography (silica gel, 90:9:1 ethyl acetate/methanol/concentrated ammonium hydroxide) to afford N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-aminophenyl)benzoxazole-4-carboxamide (7 mg, 2%) as a yellow solid: 1H NMR (500 MHz, CDCl3) δ 9.68 (d, J=6.5 Hz, 1H), 8.13 (d, J=8.0 Hz, 1H), 8.02 (d, J=8.5 Hz, 2H), 7.65 (d, J=8.0 Hz, 1H), 7.39 (t, J=8.0 Hz, 1H), 6.79 (d, J=8.5 Hz, 2H), 4.40-4.36 (m, 1H), 4.19-4.16 (m, 3H), 3.20-2.90 (m, 5H), 2.30-0.80 (m, 5H); MS (ESI+) m/z 363 (M+H); HPLC 96.0% (AUC), tR=12.35 min.

reactant | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-nitrophenyl)benzoxazole-4-carboxamide | 0.06 mmol, 24 mg | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H20N4O4
reactant | tin(II) chloride | 0.61 mmol, 116 mg | [Sn](Cl)Cl
solvent | ethanol | C(C)O | C2H6O
product | N-(1-azabicyclo[2.2.2]oct-3-yl)-2-(4-aminophenyl)benzoxazole-4-carboxamide | 7 mg, 2% | N12CC(C(CC1)CC2)NC(=O)C=2C=CC=C1C2N=C(O1)C1=CC=C(C=C1)N | C21H22N4O2
